US07361678B2
To a stirred solution of 4′-hydroxyacetophenone (4 mmol) in DMF (10 mL) at rt, solid potassium carbonate (12.0 mmol) was added. 4-chlorophenthoxy mesylate (prepwered from the 4-chlorophenethanol and methanesulfonyl chloride) (4.4 mmol) was added to the reaction mixture and heated to 80° C. until completion according to General Procedure Q1, as indicated by TLC or HPLC. After cooling to rt, the reaction mixture was quenched with saturated sodium bicarbonate. The aqueous layer was poured into EtOAc (30 ml) and washed with water (2×15 ml) and brine (15 ml). The organic layer was dried over magnesium sulfate, and the solvent was removed in vacuuo to afford the desired 1-{4-[2-(4-chlorophenyl)ethoxy]phenyl}ethanone. The crude alkylated product was purified by silica gel chromatography and the pure product obtained from 10% EtOAc/hexanes (yield 70%).

reactant | 4′-hydroxyacetophenone | 4 mmol | OC1=CC=C(C=C1)C(C)=O | C8H8O2
reactant | potassium carbonate | 12.0 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | 4-chlorophenethanol | C1=CC(=CC=C1CCO)Cl | C8H9ClO
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-{4-[2-(4-chlorophenyl)ethoxy]phenyl}ethanone | ClC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C(C)=O | C16H15ClO2
